US07456200B2
5-Furan-2-yl-4-methyl-4H-[1,2,4]triazole-3-thiol
2-Furoyl chloride (0.76 ml, 7.66 mmol) was added in a dropwise manner to a solution of 4-methyl-3-thiosemicarbazide (732 mg, 6.96 mmol) and pyridine (7 ml) and the resulting solution was stirred at room temperature for 4 h. The reaction mixture was diluted with ethyl acetate (100 ml), successively washed with water (3×100 ml) and brine (100 ml). The organic phase was dried (sodium sulfate), filtered and concentrated in-vacuo. The residue was suspended in sodium bicarbonate (70 ml, 69.6 mmol, 1 M water) and left stirring at 100° C. overnight. The reaction mixture was cooled to 0° C., then brought to pH about 6 using hydrochloric acid (70 ml, 1 N water). The title compound (298 mg) was collected by filtration as a white solid. 1H NMR (CDCl3), δ (ppm): 11.4 (bs, 1H), 7.63 (d, 1H), 7.02 (d, 1H), 6.60 (dd, 1H), 3.83 (s, 3H).

reactant | 2-Furoyl chloride | 7.66 mmol, 0.76 ml | O1C(=CC=C1)C(=O)Cl | C5H3ClO2
reactant | 4-methyl-3-thiosemicarbazide | 6.96 mmol, 732 mg | CNC(NN)=S | C2H7N3S
reactant | sodium bicarbonate | 69.6 mmol, 1 M, 70 ml | C([O-])(O)=O.[Na+]
reactant | hydrochloric acid | 1 N, 70 ml | Cl | ClH
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | pyridine | 7 ml | N1=CC=CC=C1 | C5H5N
product | 5-Furan-2-yl-4-methyl-4H-[1,2,4]triazole-3-thiol | O1C(=CC=C1)C=1N(C(=NN1)S)C | C7H7N3OS
